US09227978B2
tert-Butyl 4-(2-((4-chloro-5-iodo-2-methoxyphenyl)amino)ethyl)piperazine-1-carboxylate
To a stirred solution of 4-chloro-5-iodo-2-methoxyaniline (968 mg, 3.42 mmol) in anhydrous THF (20 mL) at 0° C., NaH (60% in mineral oil, 205.2 mg, 5.13 mmol) was added and the resulting mixture was stirred at reflux under nitrogen for 1 h. To this mixture, tert-butyl-4-(2-bromoethyl)piperazine-1-carboxylate (500 mg, 1.71 mmol) was added and the resulting mixture was stirred at room temperature for 15 h. The mixture was concentrated in vacuo and the residue was partitioned between ethyl acetate and brine. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (10-30% ethyl acetate/petroleum ether) to afford the desired product (180 mg, 21% yield) as a solid.

reactant | 4-chloro-5-iodo-2-methoxyaniline | 3.42 mmol, 968 mg | ClC1=CC(=C(N)C=C1I)OC | C7H7ClINO
reactant | NaH | 5.13 mmol, 205.2 mg | [H-].[Na+]
reactant | tert-butyl-4-(2-bromoethyl)piperazine-1-carboxylate | 1.71 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCBr | C11H21BrN2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(2-((4-chloro-5-iodo-2-methoxyphenyl)amino)ethyl)piperazine-1-carboxylate | 180 mg, 21% yield | ClC1=CC(=C(C=C1I)NCCN1CCN(CC1)C(=O)OC(C)(C)C)OC | C18H27ClIN3O3
